US06750231B2
3,4-Dimethyl-1-pentyl-4-(3-(1H-1,2,3-triazol-4-yl)phenyl)piperidine
To a solution of 3,4-dimethyl-4-(3-(1H-1,2,3-triazol-4-yl)phenyl)piperidine (Preparation 44, 45 mg, 0.18 mmol) in N,N-dimethylformamide (5 mL) was added commercially available bromopentane (29 mg, 0.19 mmol) and sodium hydrogencarbonate (30 mg, 0.35 mmol). The resultant mixture was heated to 80° C. and stirred overnight. The reaction mixture was cooled, poured onto saturated aqueous sodium hydrogen-carbonate solution (100 mL) and extracted with ethyl acetate (3×20 mL). The combined extracts were dried over MgSO4, filtered and concentrated in vacuo to give an off-white gum. The crude product was purified by reverse phase high performance liquid chromatography (condition 1) to give the title compound as a clear oil (33 mg, 57.3%).

reactant | 3,4-dimethyl-4-(3-(1H-1,2,3-triazol-4-yl)phenyl)piperidine | 0.18 mmol, 45 mg | CC1CNCCC1(C1=CC(=CC=C1)C=1N=NNC1)C | C15H20N4
reactant | bromopentane | 0.19 mmol, 29 mg | BrCCCCC | C5H11Br
reactant | sodium hydrogencarbonate | 0.35 mmol, 30 mg | C(O)([O-])=O.[Na+]
reactant | sodium hydrogen-carbonate | 100 mL | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 3,4-Dimethyl-1-pentyl-4-(3-(1H-1,2,3-triazol-4-yl)phenyl)piperidine | 33 mg, 57.3% | CC1CN(CCC1(C1=CC(=CC=C1)C=1N=NNC1)C)CCCCC | C20H30N4
